US06737440B2
2,5-Bis(2-methyl-4-nitrophenyl)furan (Compound 2b).
To a solution of 2-bromo-5-nitrotoluene (4.32 g, 20 mmol) and tetrakis (triphenylphospine) palladium (0) (0.40 g) in anhydrous 1,4-dioxane (50 ml) was added 2,5-bis (tri-n-butylstannyl)furan (6.46 g, 10 mmol) and the mixture was heated overnight under nitrogen at 95-100° C. The resulting orange suspension was diluted with hexanes (15 ml), cooled to room-temperature, and filtered to give, after rinsing with hexanes, an orange solid (3.10 g), mp 241-243° C. The product was recrystallized from DMF (100 ml) to give a bright orange fluffy solid (2.87 g, 85%), mp 242-243° C. 1H NMR (DMSO-d6): 2.69 (s, 6H), 7.31 (s, 2H), 8.12 (m, 4H), 8.23 (s, 2H). Anal. Calcd. for C18H14N2O5 (338.31): C, H, N.

reactant | 2-bromo-5-nitrotoluene | 20 mmol, 4.32 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | 2,5-bis (tri-n-butylstannyl)furan | 10 mmol, 6.46 g | C(CCC)[Sn](C=1OC(=CC1)[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2,5-Bis(2-methyl-4-nitrophenyl)furan | 2.87 g, 85% | CC1=C(C=CC(=C1)[N+](=O)[O-])C=1OC(=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C18H14N2O5
